US09056874B2
7-Methyl-5-(methylthio)-1H-indole-4-carbonitrile
To a solution of 4-methyl-2-(methylthio)-5-nitrobenzonitrile (1.6 g, 7.68 mmol) in THF (80 mL) at −78° C. under nitrogen, was added rapidly 1M vinylmagnesium bromide in THF (30.7 mL, 30.7 mmol). After addition was complete, the reaction was stirred at −78° C. for 30 min. The reaction was then quenched with sat. aq. NH4Cl and extracted with EtOAc. The organic extract was dried over MgSO4, filtered and concentrated. The pure title compound was isolated using FCC (0-50% EtOAc in heptanes). MS (ESI−) m/z 201.2 (M−H).

reactant | 4-methyl-2-(methylthio)-5-nitrobenzonitrile | 7.68 mmol, 1.6 g | CC1=CC(=C(C#N)C=C1[N+](=O)[O-])SC | C9H8N2O2S
reactant | vinylmagnesium bromide | 1M | C(=C)[Mg]Br
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 30.7 mmol, 30.7 mL | C1CCOC1 | C4H8O
product | 7-Methyl-5-(methylthio)-1H-indole-4-carbonitrile | CC1=CC(=C(C=2C=CNC12)C#N)SC | C11H10N2S
